US08058441B2
1-Acetyl-6-(3-bromo-2,6-dimethoxybenzoyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
A mixture of 1-acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (25 mg), 3-bromo-2,6-dimethoxybenzoic acid (23 mg), O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU) (68 mg) and N,N-diisopropylethylamine (32 μl) in dichloromethane (4 ml) was stirred for 18 h. The reaction mixture was concentrated in vacuo, the residue was dissolved in ethyl acetate and washed with 0.5 M HCl, water, 5% aq. NaHCO3, water and brine. The organic layer was dried (MgSO4) and concentrated in vacuo. The residue was chromatographed on silicagel in heptane/ethyl acetate=1/0=>0/1 (v/v) as eluent.

reactant | 1-acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 25 mg | C(C)(=O)N1C(CC(C2=CC(=CC=C12)N)(C)C1=CC=CC=C1)(C)C | C20H24N2O
reactant | 3-bromo-2,6-dimethoxybenzoic acid | 23 mg | BrC=1C(=C(C(=O)O)C(=CC1)OC)OC | C9H9BrO4
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 68 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 32 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 1-Acetyl-6-(3-bromo-2,6-dimethoxybenzoyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)NC(C1=C(C(=CC=C1OC)Br)OC)=O)(C)C1=CC=CC=C1)(C)C | C29H31BrN2O4
